US09193741B2
Synthesis of 1-(4-(5-amino-2-p-tolylthiazolo[5,4-d]pyrimidin-7-yl)piperazin-1-yl)-2-(4-methoxyphenoxy)ethanone
This compound was prepared from 7-(piperazin-1-yl)-2-p-tolylthiazolo[5,4-d]pyrimidin-5-amine using 4-methoxyphenoxyacetic acid in a yield of 41%, according to the procedure for the synthesis of example 50.

reactant | 7-(piperazin-1-yl)-2-p-tolylthiazolo[5,4-d]pyrimidin-5-amine | N1(CCNCC1)C=1C2=C(N=C(N1)N)SC(=N2)C2=CC=C(C=C2)C | C16H18N6S
reactant | 4-methoxyphenoxyacetic acid | COC1=CC=C(OCC(=O)O)C=C1 | C9H10O4
product | 1-(4-(5-amino-2-p-tolylthiazolo[5,4-d]pyrimidin-7-yl)piperazin-1-yl)-2-(4-methoxyphenoxy)ethanone | yield of 41% | NC=1N=C(C2=C(N1)SC(=N2)C2=CC=C(C=C2)C)N2CCN(CC2)C(COC2=CC=C(C=C2)OC)=O | C25H26N6O3S
